US06951879B2
In analogy to example 27.1, 2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-ol and 1,4-dibromobutane were converted to yield 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene as colorless oil, MS: 443 (MH+, 1Br).

reactant | 2-Methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-ol | CC1=C(C2=C(S1)C=C(C=C2)O)C2=CC=C(C=C2)C(F)(F)F | C16H11F3OS
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1 | C20H18BrF3OS
